US05721255
To a stirred and ice-cooled solution of (2S,3S)-N-(2-methoxy-5-methylthiophenyl)methyl-2-diphenylmethyl-1-azabicyclo[2.2.2]octan-3-amine dihydrochloride in methanol (25 mL) was added a solution of oxone (2.41 g) in water (25 mL). The reaction mixture was stirred at room temperature for 2.5 hours. The reaction mixture was basified to pH 10-11 with 1N NaOH aq. solution with ice-cooling, and extracted with CHCl3 (80 mL×4). The combined organic layers were washed with brine (80 mL), dried (MgSO4) and concentrated in vacuo to give crude (2S,3S)-N-(2-methoxy-5-methylsulfonylphenyl)methyl-2-diphenylmethyl-1-azabicyclo[2.2.2]octan-3-amine (white soap, 1.49 g). The residue was purified by chromatography on silica gel (60 g) with chloroform-methanol (20:1-10:1) to give (2S,3S)-N-(2-methoxy-5-methylsulfonylphenyl)methyl-2-diphenylmethyl-1-azabicyclo[2.2.2]octan-3-amine (1.08 g, 79%) as a white amorphous solid.

reactant | (2S,3S)-N-(2-methoxy-5-methylthiophenyl)methyl-2-diphenylmethyl-1-azabicyclo[2.2.2]octan-3-amine dihydrochloride | Cl.Cl.COC1=C(C=C(C=C1)SC)CN[C@@H]1[C@@H](N2CCC1CC2)C(C2=CC=CC=C2)C2=CC=CC=C2
reactant | oxone | 2.41 g | OOS(=O)[O-].[K+]
reactant | NaOH | 1N | [OH-].[Na+]
reactant | methanol | 25 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
product | (2S,3S)-N-(2-methoxy-5-methylsulfonylphenyl)methyl-2-diphenylmethyl-1-azabicyclo[2.2.2]octan-3-amine | 1.49 g | COC1=C(C=C(C=C1)S(=O)(=O)C)CN[C@@H]1[C@@H](N2CCC1CC2)C(C2=CC=CC=C2)C2=CC=CC=C2 | C29H34N2O3S
